US04548932
To a chilled mixture of 3-(1-benzyloxycarbonyl-4-piperidyl)propanol (110 g) and pyridine (500 ml) is added portionwise tosyl chloride (100 g) for 2 hours with stirring. After stirring for further 1 hour, ice water (1 l) is added dropwise to the mixture. The resulting mixture is acidified by dropwise addition of concentrated hydrochloric acid at ice-bath temperature and extracted with ethyl acetate (1 l). The extract is washed successively with diluted hydrochloric acid and water, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue is crystallized from ethanol to give 3-(1-benzyloxycarbonyl-4-piperidyl)propyl p-toluenesulfonate (99 g) as a colorless crystals, mp 59°-60° C.

reactant | 3-(1-benzyloxycarbonyl-4-piperidyl)propanol | 110 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCO | C16H23NO3
reactant | tosyl chloride | 100 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 3-(1-benzyloxycarbonyl-4-piperidyl)propyl p-toluenesulfonate | 99 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C23H29NO5S
